US04374248
A. 2-[(2-Methylaminothiazol-4-yl)methylthio]ethylamine
Cysteamine hydrochloride (2.8 g; 24.6 mmoles) and 2-methylamino-4-chloromethylthiazole (4.0 g; 24.6 mmoles) [prepared from N-methylthiourea and 1,3-dichloro-2-propane] were dissolved in 20 ml of concentrated hydrochloric acid and the solution was heated at an oil bath temperature of 100°. After 30 hours of heating, the reaction mixture was evaporated under reduced pressure and the residue made basic with 40% NaOH solution. The aqueous phase was extracted with methyl acetate, dried, filtered and evaporated to give 1.75 g of the title compound as an oil which was used without further purification in Step B.

reactant | Cysteamine hydrochloride | 24.6 mmoles, 2.8 g | Cl.NCCS
reactant | 2-methylamino-4-chloromethylthiazole | 24.6 mmoles, 4.0 g | CNC=1SC=C(N1)CCl | C5H7ClN2S
solvent | hydrochloric acid | 20 ml | Cl | ClH
product | 2-[(2-Methylaminothiazol-4-yl)methylthio]ethylamine | 1.75 g | CNC=1SC=C(N1)CSCCN | C7H13N3S2
